US04902686
c. 1,2-dihydro-2-oxo-4-phenyl-quinoline
A mixture of o-amino benzophenone (10 g) and acetic acid anhydride (10 ml) in tetrahydrofuran (150 ml) was refluxed for 8 hours. The mixture was thereafter evaporated and the residue was partitioned between sat NaHCO3, (20 ml) and diethylether (150 ml). The organic phase was dried and evaporated to give a yellow oil which was redissolved in dimethyl formamide (150 ml). To this solution was added NaH (5 g) and the mixture was stirred at 110° C. for 11/2 hour, whereafter it was cooled to room temperature, and poured into water (300 ml). This treatment afforded a precipitate of the title compound as pale crystals, which were collected by filtration. The crystals were washed with water and dried. M.p. 244°-247° C.

reactant | o-amino benzophenone | 10 g | NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O | C13H11NO
reactant | acetic acid anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaH | 5 g | [H-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | 1,2-dihydro-2-oxo-4-phenyl-quinoline | O=C1NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H11NO
